US04803218
5-Nitro-3-(2-nitropropyl)indole:
To a solution of 0.3 g (0.013 mole) of Na in 65 ml of abs EtOH was added 2.93 g (0.039 mole) of nitroethane dropwise. To the white suspension was added 2.19 g (0.01 mole) of 5-nitrogramine suspended in 40 ml of abs EtOH, followed by 2.5 g (0.02 mole) of dimethylsulfate in 20 ml of abs EtOH dropwise over 15 minutes. The mixture was stirred for 2 hours, then poured into 350 ml of ice water. The yellow solid was filtered, washed with ice water and air-dried to give 1.63 g (64%) of product: m.p. 130-131.5.

reactant | nitroethane | 0.039 mole, 2.93 g | [N+](=O)([O-])CC | C2H5NO2
reactant | 5-nitrogramine | 0.01 mole, 2.19 g | CN(C)CC1=CNC2=C1C=C(C=C2)[N+](=O)[O-] | C11H13N3O2
reactant | dimethylsulfate | 0.02 mole, 2.5 g | COS(=O)(=O)OC | C2H6O4S
solvent | EtOH | CCO | C2H6O
product | 5-Nitro-3-(2-nitropropyl)indole | 1.63 g, 64% | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CC(C)[N+](=O)[O-] | C11H11N3O4
